US05807859
To a suspension, maintained under a nitrogen atmosphere and at a temperature in the region of 20° C., of 2.2 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 45 ml of anhydrous dimethyl sulphoxide are added 1.34 g of 3-fluorobenzaldehyde and then, over 5 minutes, 0.72 g of 80% sodium hydride. The mixture is stirred for 15 hours at the same temperature, followed by slow addition of 45 ml of distilled water and 12 ml of acetic acid. The insoluble product formed is isolated by filtration, washed with distilled water and air-dried. The product obtained (2.6 g) is chromatographed on a column of neutral silica gel, eluting with a dichloromethane/methanol mixture (90/10 by volume). The fractions containing the expected product are concentrated to dryness and the product obtained (1.6 g) is dissolved in 100 ml of dimethylformamide at 100° C. 30 ml of distilled water are then added and the solution is cooled to a temperature in the region of 20° C. The insoluble product formed is isolated by filtration, washed 3 times with 15 ml in total of distilled water and air-dried. The product obtained (0.86 g) is stirred in suspension in 20 ml of boiling methanol and, after cooling, is isolated by filtration, washed with 5 ml of methanol and air-dried. The product obtained (0.56 g) is dissolved in a boiling mixture of 30 ml of acetic acid and 40 ml of dimethylformamide and, after cooling to a temperature in the region of 5° C., the insoluble product formed is isolated by filtration, washed twice with 10 ml in total of acetic acid and twice with 10 ml in total of isopropyl ether, and then dried under reduced pressure (1 mmHg; 0.13 kPa) at 60° C. 0.39 g of 10-(3-fluorobenzylidene)-5H,10H-imidazo[1,2-a]indeno-(1,2-e]pyrazin-4-one is thus obtained, melting at 360° C. (decomposition) (Analysis, % calculated C: 72.94, H: 3.67, F: 5.77, N: 12.76, O: 4.86, % found C: 73.1, H: 3.0, N: 12.5).

reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 2.2 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | 3-fluorobenzaldehyde | 1.34 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | water | 45 ml | O | H2O
reactant | water | 30 ml | O | H2O
solvent | dimethyl sulphoxide | 45 ml | CS(=O)C | C2H6OS
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methanol | 20 ml | CO | CH4O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 10-(3-fluorobenzylidene)-5H,10H-imidazo[1,2-a]indeno-(1,2-e]pyrazin-4-one | 0.39 g | FC=1C=C(C=C2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=CC1 | C20H12FN3O
